US09422240B2
To a mixture of 4-bromobenzaldehyde (2.00 g), bis(triphenylphosphine)palladium(II) dichloride (228 mg), copper(I) iodide (20.6 mg), N,N-dimethylformamide (2.00 mL) and triethylamine (15.1 mL), cyclopropylacetylene was added and thereafter the mixture was stirred in a sealed tube at 110° C. for one minute under irradiation with microwaves. After being cooled to room temperature, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and extracted with a liquid mixture of n-hexane/ethyl acetate (1:1) three times. The combined organic layers were washed with saturated brine and dried over added anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-60:40) to give 4-(cyclopropylethynyl)benzaldehyde as a brown oil (1.79 g).

reactant | 4-bromobenzaldehyde | 2.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | N,N-dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
reactant | cyclopropylacetylene | C1(CC1)C#C | C5H6
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 228 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20.6 mg | [Cu]I
solvent | triethylamine | 15.1 mL | C(C)N(CC)CC | C6H15N
product | 4-(cyclopropylethynyl)benzaldehyde | 1.79 g | C1(CC1)C#CC1=CC=C(C=O)C=C1 | C12H10O
